US08138197B2
tert-Butyl 4-{[tert-butyl(dimethyl)silyl]oxy}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate
A solution of tert-butyl 6-{amino[({[(2-ethylhexyl)oxy]carbonyl}oxy)imino]methyl}-4-{[tert-butyl(dimethyl)silyl]oxy}-spiro[chroman-2,4′-piperidine]-1′-carboxylate in 100 mL of xylene was stirred at 145° C. for 14 h. The reaction mixture was cooled to rt, and concentrated in reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of hexane-AcOEt (100/1-35/65) as an eluent to give the product as an off-white solid.

reactant | tert-butyl 6-{amino[({[(2-ethylhexyl)oxy]carbonyl}oxy)imino]methyl}-4-{[tert-butyl(dimethyl)silyl]oxy}-spiro[chroman-2,4′-piperidine]-1′-carboxylate | NC(C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)O[Si](C)(C)C(C)(C)C)=NOC(=O)OCC(CCCC)CC | C34H57N3O7Si
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | tert-Butyl 4-{[tert-butyl(dimethyl)silyl]oxy}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | [Si](C)(C)(C(C)(C)C)OC1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C26H39N3O6Si
